US09056881B2
Methyl bis(pentafluoroethyl)phosphinate, (C2F5)2P(O)OCH3, (1.77 g; 5.6 mmol) is slowly added dropwise to cooled (0° C.) diphenyl sulfide (1.01 g; 5.4 mmol) in a 25 ml glass flask. The two-phase reaction mixture is warmed and stirred at 45° C. for 17 h. The readily volatile constituents are removed in vacuo (10−3 mbar) at room temperature. Methyldiphenylsulfonium bis(pentafluoroethyl)phosphinate, [CH3S(C6H5)2][(C2F5)2P(O)O], (2.31 g, 4.6 mmol) is isolated as pale-yellow and highly viscous liquid in a yield of 85% and a purity of 90%.

reactant | Methyl bis(pentafluoroethyl)phosphinate | FC(C(F)(F)F)(F)P(OC)(=O)C(C(F)(F)F)(F)F | C5H3F10O2P
reactant | (C2F5)2P(O)OCH3 | P(=O)(C(F)(F)C(F)(F)F)(C(F)(F)C(F)(F)F)OC | C5H3F10O2P
reactant | diphenyl sulfide | 5.4 mmol, 1.01 g | C1(=CC=CC=C1)SC1=CC=CC=C1 | C12H10S
product | Methyldiphenylsulfonium bis(pentafluoroethyl)phosphinate | yield of 85% | FC(C(F)(F)F)(F)P([O-])(=O)C(C(F)(F)F)(F)F.C[S+](C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C13H13S.C4HF10O2P/c1-14(12-8-4-2-5-9-12)13-10-6-3-7-11-13;5-1(6,7)3(11,12)17(15,16)4(13,14)2(8,9)10/h2-11H,1H3;(H,15,16)/q+1;/p-1
